US06884907B2
2-{3-[Benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2-(4-carboxyphenyl)methyl-malonic acid (9.30 g, 15.6 mmol ) was taken up in DMSO (10 mL). This solution was heated at 130° C. for 1.5 h. The reaction mixture was then allowed to come to room temperature. The solvent was then removed under reduced pressure. EtOAc was used as an azeotrope to remove the DMSO. The residue was partitioned between 50 mL of 10% KHSO4 and 100 mL of EtOAc. The organic layer was washed with brine (50 mL), dried over Na2SO4, and concentrated to give 6.17 g of 4-[5-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-2-carboxy-5-oxopentyl]benzoic acid as an off white powder (76% yield). 1H NMR (CDCl3): d 0.88-0.96 (m, 2H), 1.26-1.91 (m, 2H), 2.02-2.32 (m,2H), 2.47-2.83 (m, 2H), 3.01-3.60 (m,2H), 4.70 (s, 1H), 7.14-7.29 (m,9H), 7.93-7.96 (d, 2H).

reactant | 2-{3-[Benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2-(4-carboxyphenyl)methyl-malonic acid | 15.6 mmol, 9.30 g | C(C1=CC=CC=C1)ON(C(CCC(C(=O)O)(C(=O)O)CC1=CC=C(C=C1)C(=O)O)=O)CC1=C(C=C(C=C1OC)OC)OC | C31H33NO11
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-[5-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-2-carboxy-5-oxopentyl]benzoic acid | 6.17 g | C(C1=CC=CC=C1)ON(C(CCC(CC1=CC=C(C(=O)O)C=C1)C(=O)O)=O)CC1=C(C=C(C=C1OC)OC)OC | C30H33NO9
